US09079835B2
A flame-dried round-bottomed flask was charged with 9-decyn-1-ol tetrahydropyranyl ether (1 equiv, 31.7 mmol, 7.55 g) and THF (40 mL), and cooled to −78° C. n-BuLi (1.1 equiv, 34.9 mmol, 21.8 mL of a nominally 1.6 M solution in hexanes) were added dropwise over 5 min. The reaction was stirred for 30 min at −78° C. and then added to a solution of methyl chloroformate (1.5 eq, 47.6 mmol, 4.50 g, 3.7 mL) in THF (20 mL) dropwise via cannula. The reaction was stirred for 30 min at −78° C., then warmed to rt over 1 h and quenched dropwise with H2O (40 mL). The layers were separated and the aqueous layer was extracted with Et2O (2×25 mL). The combined organic layers were dried with Na2SO4, evaporated in vacuo, and purified by flash column chromatography (step gradient, 5% EtOAc/Hex to 10% EtOAc/Hex) to afford Methyl-11-[(tetrahydro-2H-pyran-2-yl)oxy]-undecynoate (8.50 g, 28.7 mmol, 90%). TLC Rf=0.33 (10% EtOAc/Hex) 1HNMR (600 MHz): δ 4.55-4.61 (1H), 3.84-3.91 (m, 1H), 3.70-3.78 (m plus ovlp. s, 4H), 3.47-3.54 (m, 1H), 3.39 (dt, 1H, J1=9.6 Hz, J2=6.7 Hz), 2.33 (t, 2H, J=7.1 Hz), 1.80-1.89 (1H), 1.68-1.76 (1H), 1.50-1.63 (8H), 1.28-1.44 (8H); 13CNMR (150 MHz): δ 154.3, 98.9, 89.9, 72.9, 67.6, 62.3, 52.5, 30.8, 29.7, 29.2, 28.9, 28.7, 27.5, 26.2, 25.5, 19.7, 18.6; FTIR: 2932, 2856, 2236, 1714, 1434, 1249, 1075, 1023, 752 cm−1; HRMS-ESI: calc. for C17H28NaO4 (M+Na)+: 319.1885. found: 319.1887.

reactant | 9-decyn-1-ol tetrahydropyranyl ether | 31.7 mmol, 7.55 g, 1 equiv | O1C(CCCC1)OCCCCCCCCC#C | C15H26O2
reactant | n-BuLi | [Li]CCCC
reactant | methyl chloroformate | 47.6 mmol, 3.7 mL, 4.50 g, 1.5 eq | ClC(=O)OC | C2H3ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Methyl-11-[(tetrahydro-2H-pyran-2-yl)oxy]-undecynoate | 28.7 mmol, 8.50 g, 90% | COC(C#CCCCCCCCCOC1OCCCC1)=O | C17H28O4
